US06825360B1
(a) 1-Methyl-3-(3-methylbut-2-enyl)sulphanylbenzene
5 g (40 mmol) of 3-methylthiophenol, 5.6 g (40 mmol) of potassium carbonate and 50 ml of DMF are introduced into a three-necked flask. 7.2 g (48 mmol) of 3-methyl-2-butene bromide are added and the mixture is stirred at room temperature for four hours. The reaction medium is poured into water and extracted with ethyl ether, and the organic phase is separated out after settling has taken place, dried over magnesium sulphate and evaporated. 7.8 g (100%) of the expected product are collected in the form of a yellow oil.

reactant | 3-methylthiophenol | 40 mmol, 5 g | CC=1C=C(C=CC1)S | C7H8S
reactant | potassium carbonate | 40 mmol, 5.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 50 ml | CN(C)C=O | C3H7NO
reactant | 3-methyl-2-butene bromide | 48 mmol, 7.2 g | [Br-].CC(=CC)C
solvent | water | O | H2O
product | 1-Methyl-3-(3-methylbut-2-enyl)sulphanylbenzene | CC1=CC(=CC=C1)SCC=C(C)C | C12H16S
